Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6]#[C:7][H:8],6.41817178875
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.5668099710300005
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]1([H:10])[O:11][C:12]1[H:13]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:12]([O:11][C:9][H:10])[H:13],1.97223936152
[H:10].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.66129193384
[O:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8],2.89857005227
[C:1]#[C:2][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:3]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-2.2509491926900003
[C:5][C:6]([H:7])([H:8])[H:9].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9],-4.32509761165
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9]>>[C:1][C:2]#[C:3][C:5]([H:6])[O:7][C:8][H:9].[H:4],3.3643856063200004
[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:12]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.5251016686800005
[H:1][C:2][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.93474004429
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[H:6].[H:1][O:2]/[C:3]=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],6.50873484509
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[H:8],3.37189082813
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[H:4],1.85001697682
[C:1]=[C:2]([O:3][H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],2.85443654762
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],2.40966982839
[C:7]([H:8])([H:9])=[C:10][O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15],-3.35154693165
[O:1]([C:2][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.89876967608
[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-0.6883427834100001
[H:1][O:2][C@@:3]1([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]1[H:13]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:12](=[O:11])[H:13],-1.4703836314200005
[H:1][C:2][C:3]#[C:7][C:9]([C:4](=[C:5][H:6])[H:8])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]1[C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11],-3.81141750266
[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[O:8],1.09869342526
[C:5]([H:6])([H:7])[O:8][C:9][H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10],-3.96075179555
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-5.93143920418
[H:1][O:2].[O:3]=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3]/[C:4]([C:5]([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13],-1.33609126187
[H:6].[O:1]=[C:2]([O:3][C:4][H:5])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-4.4067407535
[H:10].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-5.50654741809
[C:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:1]=[O:2].[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-1.14226811934
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-3.2408623318400003
[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[O:4],0.735872537209
